US07737136B2
Successively, ethyl trifluoroacetate (1.41 mL, 11.8 mmol) and triethylamine (628 μL, 4.5 mmol) were added to trans-7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine (291 mg, 0.97 mmol) in 11.8 mL of methanol. The resulting mixture was heated to 50° C. for 18 h. A precipitate was formed. The mixture was evaporated under reduced pressure to remove volatile reagents and 5 mL of methanol was added. After 30 min. stirring the precipitate was filtered off, washed with diethyl ether and dried to give trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide as an off-white solid (330 mg, 86%). Data: 1H-NMR (400 MHz, CDCl3) 1.85 (m, 2H), 2.26 (m, 1H), 3.12 (m, 1H), 3.20 (m, 1H), 3.62 (dt, J=12.0, 4.0, 1H), 4.38 (d, J=8.0, 1H), 4.68 (m, 1H), 6.76 (dd, J=8.0, 3.0, 1H), 6.93 (d, J=3.0, 1H), 7.04 (d, J=8.0, 1H), 7.08 (dt, J=8.0, 2.0, 1H), 7.17 (dd, J=8.0, 2.0, 2H), 7.29 (dt, J=8.0, 2.0, 1H). (m/z)=397 (M+H)+.

reactant | ethyl trifluoroacetate | 11.8 mmol, 1.41 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | triethylamine | 4.5 mmol, 628 μL | C(C)N(CC)CC | C6H15N
reactant | trans-7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine | 0.97 mmol, 291 mg | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4N)C=CC=C3)C=C1 | C17H17ClN2O
solvent | methanol | 11.8 mL | CO | CH4O
product | trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide | 330 mg, 86% | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC=C3)C=C1 | C19H16ClF3N2O2
